US04608079
Preparation of methyl 5-(4-isopropyl-4-methyl-5-oxo-2-imidazolidinyl)furo[3,2-b]pyridine-6-carboxylate
A solution of 22.1 mmol of methyl 5-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[3,2-b]pyridine-6-carboxylate in methanol is cooled to 0° C. and a few drops of methyl orange indicator added. The solution is stirred and treated with 22.1 mmol of concentrated hydrochloric acid. The solution is then treated with 22.1 mmol of sodium cyanoborohydride, and the pH maintained at ~3 by the additon of 2N methanolic HCl, stirred overnight, cooled to 0° C. and the pH of the solution adjusted to about 0 with HCl to decompose residual NaCNBH3. The pH is thereafter adjusted to 5-6 with 5N NaOH. The methanol is removed in vacuo and water added to dissolve inorganic salts. The mixture is extracted with CH2Cl2 and the extracts dried and concentrated to give the title compound.

reactant | methyl 5-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)furo[3,2-b]pyridine-6-carboxylate | 22.1 mmol | C(C)(C)C1(N=C(NC1=O)C1=C(C=C2C(=N1)C=CO2)C(=O)OC)C | C16H17N3O4
reactant | hydrochloric acid | 22.1 mmol | Cl | ClH
reactant | sodium cyanoborohydride | 22.1 mmol | C(#N)[BH3-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | NaCNBH3 | [BH3-]C#N.[Na+]
reactant | NaOH | 5N | [OH-].[Na+]
solvent | methanol | CO | CH4O
catalyst | methyl orange | a few drops | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
product | methyl 5-(4-isopropyl-4-methyl-5-oxo-2-imidazolidinyl)furo[3,2-b]pyridine-6-carboxylate | C(C)(C)C1(NC(NC1=O)C1=C(C=C2C(=N1)C=CO2)C(=O)OC)C | C16H19N3O4
